US05840732
i) Synthesis of 3-benzylpyrimidine-2,4,6(1H,3H)-trione
To a suspension of 24.78 g (165 mmol) of benzylurea and 25 ml (165 mmol) of diethyl malonate in 84 ml of methanol, 40.2 ml (165 mmol) of a 4.1M sodium methylate solution was added at room temperature, followed by refluxing for 16 hours. After the reaction mixture was cooled, the solvent was distilled off. After the residue was dissolved in water and insoluble substances were filtered out, the filtrate was adjusted to pH 3-4 by adding concentrated hydrochloric acid. The resulting precipitate was collected by filtration, washed with water and n-hexane-diethyl ether and dried to yield 32.12 g (89.2%, white crystal) of the desired product.

reactant | benzylurea | 165 mmol, 24.78 g | C(C1=CC=CC=C1)NC(=O)N | C8H10N2O
reactant | diethyl malonate | 165 mmol, 25 ml | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | sodium methylate | 4.1M | C[O-].[Na+]
solvent | methanol | 84 ml | CO | CH4O
product | 3-benzylpyrimidine-2,4,6(1H,3H)-trione | C(C1=CC=CC=C1)N1C(NC(CC1=O)=O)=O | C11H10N2O3
